US05981521
Step 2: 1,2,3,4-Tetrahydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline
To a solution of 3,4-dihydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline (2.0 g. 8.57 mmol). obtained from the previous step, in veOH (I 50 mL) was added Pd/C (0.g). The reaction mixture was hydrogenated for 21 hr at 4 atm hydrogen pressure. The catalyst was filtered off and the filtrate was concentrated in vacuo. The oily residue (2 g) was purified by a silica gel column using (1: 1) ethyl acetate/ hexane to yield a yellowish oil (94 %): IR (MIC) U 3340, 2951, 1739, 1616, 1503, 1436, 1290, 1228, 1035 cm-1 ; 1H-NMR (CDCl3, δ): 1.51 (d.J=6.6 Hz, 3H). 2.75 (broad s, 1H), 2.89- 3.03 (m. 2H), 3.72 (dd, J=4.5, 11.1 Hz, 1H). 3.79 (s. 6H), 4.14 (q. J=6.6 Hz, 1H), 6.71- 6.75 (m, 2H), 7.02 (d, J=7.8 Hz, I H): MS showed (M+H) +@ 236; Anal. Calcd for C13Hl7NO3 . HCl: C, 57.46; H, 6.68; N, 5.15; Found: C, 57.42; H, 6.64; N, 5.02.

reactant | 3,4-dihydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline | 8.57 mmol, 2.0 g | COC1=CC=C2CC(N=C(C2=C1)C)C(=O)OC | C13H15NO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 1,2,3,4-Tetrahydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline | 94 % | COC1=CC=C2CC(NC(C2=C1)C)C(=O)OC | C13H17NO3
